US05670691
A mixture of 290 g of sodium 2-trifluoromethyl-6-methylbenzenesulfonate and 500 mL of phosphorous oxychloride was heated to reflux for 5 hours. The mixture was then cooled to 0° C. and poured into a large flask containing 2000 g of ice and 2 L of ether. After stirring for 30 minutes, the phases were separated and the organic phase washed with cold water, cold saturated aqueous sodium carbonate, and then brine. The solvent was removed in vacuo to yield 2-trifluoromethyl-6-methylbenzenesulfonyl chloride as a brown oil.

reactant | sodium 2-trifluoromethyl-6-methylbenzenesulfonate | 290 g | FC(C1=C(C(=CC=C1)C)S(=O)(=O)[O-])(F)F.[Na+]
reactant | phosphorous oxychloride | 500 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ether | 2 L | CCOCC | C4H10O
product | 2-trifluoromethyl-6-methylbenzenesulfonyl chloride | FC(C1=C(C(=CC=C1)C)S(=O)(=O)Cl)(F)F | C8H6ClF3O2S
